Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ascites, probable gastric cancer
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old Male who presents with 4 months of increasing 
abdominal distension, vomiting, an inconsistent bowel movements. 
The patient notes over the 4 months he has vomited ___ times per 
day. He also reports periumbilical pain which is constant and 
somewhat mild. He denies any post-prandial pain. Denies and 
melena, hemaotchezia, hematemesis. His PCP put him on 
omeprazole. The patient has had a 30lb unintentional weight loss 
over the 4 months. The patient reports no relief of his 
abdominal pain from the omeprazole. He has not had any 
outpatient imaging.

Of note the patient notes that 3 weeks prior to admission he had 
an h. pylori breath test which was positive, which is what 
prompted his PCP To place him on omeprazole and something else 
which he does not know. 2 weeks prior to admission he underwent 
an EGD in ___ (he does not know the gastroenterologist) 
which he was told was concerning for gastric cancer? Then the 
week of admission on ___ he underwent an EGD at ___ 
which again he says was positive for "stomach cancer" and he is 
to follow up with DFCI on ___.

In the ___ ED his initial vitals were 98.4, 103, 142/88, 16, 
97% He underwent a RUQUS and an abdominal CT.
 
Past Medical History:
None
 
Social History:
___
Family History:
Mother: ___, heart disease
Father: healthy
Great Grandmother: ___ CA
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VSS: 98.4, 126/79, 72, 14, 97%
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions, bitemporal wasting
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: Mild periumbilical TTP, moderately distended, + fluid 
wave, +BS, - CVAT, - Caput Medusa
 EXT: - CCE
 NEURO: CAOx3, Motor ___ ___ Flex/Ext
.
.
Discharge Physical Exam:
VS wnl
Gen: NAD
HEENT: anicteric, EOMI, MMM, no oral lesions or thrush
Neck: no JVD
Chest: CTAB w/ normal WOB
Cards: RR, no m/r/g, 2+ DP and radial pulses b/l, no peripheral 
edema
Abd: moderate distention with fluid (dull to percussion, + fluid 
wave), +mild tenderness to palpation around the umbilicus, not 
tender in other areas, not tender to percussion, no rebound 
tenderness, bowel sounds present
GU: no suprapubic tenderness to palpation, no CVA tenderness b/l
MSK: thin arms & legs, grossly normal strength throughout
Neuro: awake, alert, conversant with clear speech, face 
symmetric, no resting or intention tremor, normal coordination
Psych: calm, cooperative, pleasant
 
Pertinent Results:
___ 06:44PM BLOOD WBC-4.0 RBC-4.04* Hgb-10.4* Hct-32.4* 
MCV-80* MCH-25.7* MCHC-32.1 RDW-15.0 RDWSD-43.9 Plt ___
___ 06:44PM BLOOD Neuts-45.8 ___ Monos-14.8* 
Eos-4.0 Baso-1.0 Im ___ AbsNeut-1.82 AbsLymp-1.35 
AbsMono-0.59 AbsEos-0.16 AbsBaso-0.04
___ 10:19PM BLOOD ___ PTT-28.4 ___
___ 06:44PM BLOOD Glucose-96 UreaN-4* Creat-0.8 Na-139 
K-3.9 Cl-105 HCO3-26 AnGap-8*
___ 06:44PM BLOOD ALT-12 AST-25 AlkPhos-39* TotBili-0.6
___ 06:44PM BLOOD Lipase-40
___ 06:44PM BLOOD Albumin-3.3* Calcium-8.5 Phos-4.5 Mg-1.8
___ 06:44PM BLOOD TSH-1.6
___ 06:44PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:44PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:44PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
.
.
MICRO:
======
___ 6:44 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 
.
.
IMAGING:
==========

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 7:57 ___ 
FINDINGS:  

LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN:   
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits.  There is massive simple 
ascites. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without evidence of focal lesions.  There is a small accessory 
spleen near the hilum. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The left kidney is slightly larger than the right and 
exhibits 
delayed nephrogram compared to the contralateral side.  There is 
mild left hydronephrosis with abrupt tapering of the ureter in 
the region of the ureteropelvic junction, possibly reflecting 
UPJ obstruction.  No obstructing stones or apparent mass 
identified.  There is no evidence of focal renal lesions.  
Evaluation for perinephric abnormality is limited due to 
ascites. 
  
GASTROINTESTINAL: The stomach wall is somewhat thickened, likely 
due to edema. Small bowel loops demonstrate normal caliber, wall 
thickness, and enhancement throughout. The colon and rectum are 
largely decompressed, but unremarkable.  Appendix appears 
decompressed with air seen all the way to the tip. 
  
PELVIS: The urinary bladder is decompressed by ascites, limiting 
its 
evaluation.  Massive abdominopelvic ascites. 
  
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
grossly 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease is noted.  The portal vein is nearly 
completely occluded from the portal confluence to its 
bifurcation of the left and right branches with multiple 
collaterals consistent with cavernous transformation.  The 
intrahepatic left and right portal veins appear patent.  The 
origin of the SMV is mildly narrowed near the confluence, but 
patent distally.  The splenic vein is patent. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
1. Near complete occlusion of the main portal vein near the 
portal confluence appears chronic given extensive collaterals 
consistent with cavernous transformation. 
2. Massive ascites.  Of note, liver does not appear cirrhotic. 
3. Mild left hydronephrosis with abrupt tapering of the ureter 
at the level of the ureteropelvic junction concerning for UPJ 
obstruction.  No obstructing stones or apparent mass identified. 

. 
.
DUPLEX DOP ABD/PEL LIMITED Study Date of ___ 10:21 ___ 

FINDINGS:  
Liver:  The hepatic parenchyma is within normal limits.   No 
focal liver 
lesions are identified.  There is large ascites. 
Bile ducts: There is no intra- or extrahepatic biliary ductal 
dilatation.  The common hepatic duct was not measured. 
Pancreas:  The imaged portion of the pancreas appears within 
normal limits, with portions of the pancreatic tail obscured by 
overlying bowel gas. 
  
Doppler evaluation: 
The main portal vein is narrowed but patent near the portal 
confluence, with flow in the appropriate direction.  There are 
multiple collateral vessels in the porta hepatis, consistent 
with cavernous transformation, secondary to chronic thrombosis 
of the distal main portal vein. 
Right and left portal veins are patent, with antegrade flow. 
The main hepatic artery is patent, with appropriate waveform. 
Right, middle and left hepatic veins are patent, with 
appropriate waveforms. Splenic vein and superior mesenteric vein 
are patent, with antegrade flow. 
  
IMPRESSION: 
1. Cavernous transformation of the main portal vein in the porta 
hepatis, 
secondary to chronic thrombosis.  The main portal vein is 
narrowed but patent near the portal confluence. 
2. Otherwise patent hepatic vasculature with appropriate 
directional flow. 
3. Unremarkable sonographic appearance of the liver. 

.
. 
Discharge labs:
================
___ 07:40AM BLOOD WBC-4.1 RBC-4.25* Hgb-10.9* Hct-34.2* 
MCV-81* MCH-25.6* MCHC-31.9* RDW-15.3 RDWSD-44.4 Plt ___
___ 07:40AM BLOOD ___ PTT-27.2 ___
___ 07:40AM BLOOD Glucose-84 UreaN-4* Creat-0.8 Na-143 
K-3.9 Cl-107 HCO3-28 AnGap-8*
___ 07:40AM BLOOD ALT-13 AST-24 LD(LDH)-168 AlkPhos-43 
TotBili-0.8
___ 07:40AM BLOOD Albumin-3.4* Calcium-8.7 Phos-3.8 Mg-2.0
___ 06:44PM BLOOD TSH-1.6
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M w/ recently diagnosed malignant ascites 
with adenocarcinoma who underwent endoscopy earlier this week 
that was strongly suggestive of gastric cancer who presented to 
our hospital seeking a second opinion regarding his cancer 
diagnosis.
.
.
# Vomiting: none since ___ (5 days ago), attributes that 
vomiting to the flagyl he was taking as part of multidrug 
regimen for H. pylori. Since switching from flagyl to 
amoxicillin he's been fine.  Tolerating regular diet, but admits 
getting full quickly and not being able to eat as much as usual. 
Denies current nausea. Denies associated diarrhea.  Was 
evaluated by Nutrition who advised supplementing his oral diet 
with Ensure Enlive. 
.
.
# ___ pain: very mild, chronic since ~4 months ago, 
substantially less now than it was prior to undergoing 
therapeutic paracentesis at OSH 3 weeks ago; not currently 
bothering him at all.
.
.
# Ascites (malignant ascites per patient history)
-low suspicion for SBP given no findings of peritonitis on exam, 
absence of leukocytosis & fever
-No role for Dx/Tx paracentesis as patient currently 
asymptomatic and etiology of ascites already known
-Counseled patient on what signs would warrant seeking medical 
attention as well as when to seek additional Tx paracentesis
-Further management of his malignant ascites through his primary 
oncologist.
.
.
# Chronic portal vein thrombosis with cavernous transformation
-seen on Abd duplex u/s, portal vein still narrowly patent 
throughout per final read and has significant collateralization 
and blood flow is all in the correct direction
-nothing further to do at this time
.
.
# Reported gastric adenocarcinoma with malignant ascites
-Has outpatient f/u (initial visit) scheduled at ___ on ___
-I agreed with family that the ___ appointment may not be soon 
enough given his new Dx of cancer and very young age, so our 
Oncology team saw him and gave him their number to call the 
clinic to schedule initial visit sooner if possible. The 
Oncology team agreed that there is no role for inpatient 
management of his cancer at this time.  I counseled the family 
on this during extensive discussions on the day of discharge to 
help them understand the role for inpatient vs. outpatient 
evaluation and treatment for cancer. They were understandably 
frustrated and hoping for answers to many difficult questions, 
most of which do not yet have definitive answers.  Ultimately 
the patient's family was agreeable to following up with 
outpatient oncology, and they were grateful to have the 
opportunity to potentially schedule a visit sooner than the one 
that ___ had offered.
-I uploaded the CT & CTA images they brought on CD to LifeImage 
and nominated for PACS so they would be available if patient 
does come to ___ for Oncologic care
-Continue carafate for symptom relief and for the extensive 
inflammation seen on EGD(per his primary gastroenterologist 
recommendations).
.
.
# Reported H. pylori
-has completed 13 of 14 days of the course of treatment for H. 
pylori at home, but developed vomiting with flagyl, so that was 
switched on ___ to amoxicillin, which he will continue to take 
at home; he is scheduled to take for total of 7 days
.
.
# Microcytic anemia
-suspect iron deficiency anemia is most likely culprit in light 
of GI malignancy
[] would advise sending iron studies as outpatient and strongly 
consider IV iron infusions if iron studies confirm iron 
deficiency (as his chances of absorbing oral iron are poor given 
combination of acid suppression therapy and gastric malignancy)
.
.
# Weight loss (unintentional)
# Moderate protein-calorie malnutrition
-Was evaluated by Nutrition who advised supplementing his oral 
diet with Ensure Enlive
-Started Ensure Enlive w/ meals and counseled him and his family 
to continue this at home

# Mild left hydronephrosis (incidental finding on CT abd/pelvis) 
w/ ? UPJ obstruction without evidence of stone
-Patient with no urologic symptoms nor flank pain
[] Repeat imaging (Renal u/s) in ___ weeks if remains 
asymptomatic: refer to  Urology if hydronephrosis persists or 
worsens on imaging
.
.
TRANSITIONAL ISSUES:
======================
[] f/u with Oncology as outpatient ASAP (either at ___ on appt. 
on ___ or at ___ if able to get appointment sooner)
[] Repeat imaging (Renal u/s) in ___ weeks if remains 
asymptomatic: refer to  Urology if hydronephrosis persists or 
worsens on imaging
[] Iron studies --> consider iron infusions if found to be iron 
deficient
[] Assess abdomen intermittently to determine if patient would 
benefit from repeat therapeutic paracentesis.
.
.
.
.
.
Time in care: >120 minutes in patient care, extensive patient 
and family counseling at the bedside, and discharge-related 
activities on the day of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Unknown agent for "H. Pylori" treatement
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
do not take more than ___ mg of acetaminophen in any 24 hour 
period  
2.  Amoxicillin 500 mg PO Q12H  
3.  Clarithromycin 500 mg PO Q12H  
4.  Omeprazole 20 mg PO BID  
5.  Sucralfate 1 gm PO QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ascites
Probable gastric adenocarcinoma with malignant ascites (based on 
history)
Chronic portal vein thrombosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

Please plan to either follow up with your cancer specialist at 
___ at your appointment on ___ or call tomorrow to the 
___ clinic at ___ to see if you can schedule 
an appointment to be seen sooner.  We are happy to see you in 
the ___ clinic here at ___ if that is your preference.

We have downloaded the imaging results from the CDs your 
provided us into our system ("LifeImage" & "PACS") so they are 
available for our doctors to ___ in the future.

As you discussed with the ___, plan to supplement your 
diet with Ensure Enlive to try to minimize your weight loss and 
keep up your strength.

We wish you all the best going forward.

Sincerely,
The ___ Medicine Team

 
Followup Instructions:
___